US07122683B2
tert-Butyl (3S)-3-[(cyclobutylcarbonyl)amino]pyrrolidine-1-carboxylate
Cyclobutanecarbonylchloride (9 g, 76 mmol) was added to a solution of triethylamine (12.5 ml, 89.7 mmol) and tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate (12.87 g, 69 mmol) in dichloromethane (385 ml) at room temperature under nitrogen. After stirring for 18 hours at room temperature, the reaction mixture was washed with water, dried over magnesium sulfate and concentrated in vacuo to yield the title product as a light brown glass, (17.4 g, 94%)

reactant | Cyclobutanecarbonylchloride | 76 mmol, 9 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | triethylamine | 89.7 mmol, 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | 69 mmol, 12.87 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | 385 ml | ClCCl | CH2Cl2
product | tert-Butyl (3S)-3-[(cyclobutylcarbonyl)amino]pyrrolidine-1-carboxylate | 17.4 g, 94% | C1(CCC1)C(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C14H24N2O3
